US05612340
15.4 g (98.7 mmol) of 5-acetyl-2-chloro-pyridine are stirred for 1 h at 110° with 100 ml of dimethylformamide diethylacetal. After cooling to 0° filtering and drying at 60°, under HV, 3-dimethylamino-1-(2-chloro-5-pyridyl)-2-propen-1-one is obtained; 1H-NMR (DMSO): 2.98 (3H,s), 3.2 (3H,s), 5.9 (1H,d), 7.6 (1H,d), 7.8 (1H,d), 8.3 (1H, m), 8.9 (1H,m).

reactant | 5-acetyl-2-chloro-pyridine | 98.7 mmol, 15.4 g | C(C)(=O)C=1C=CC(=NC1)Cl | C7H6ClNO
reactant | dimethylformamide diethylacetal | 100 ml | C(C)OC(N(C)C)OCC | C7H17NO2
product | 3-dimethylamino-1-(2-chloro-5-pyridyl)-2-propen-1-one | CN(C=CC(=O)C=1C=CC(=NC1)Cl)C | C10H11ClN2O
